US04297358
1.2 g of sodium hydride (50% suspension in mineral oil) is added to a solution of 6.5 g of 6-methoxy-1-oxo-1,4-dihydro-4,7-phenanthroline-3-carboxylic acid methyl ester in 50 ml of absolute dimethylformamide, whilst stirring at 40° in an inert gas atmosphere. After 30 minutes the reaction mixture is allowed to cool to room temperature, 4.3 g of ethyl iodide are added in portions, the mixture is stirred for 6 hours, 200 ml of ice-water are added, the mixture is extracted by shaking with 50 ml of petroleum ether and then extracted three times with 200 ml of chloroform each time. The chloroform extracts are combined, washed with water, dried over sodium sulphate and concentrated by evaporation under reduced pressure. 1-ethoxy-6-methoxy-4,7-phenanthroline-3-carboxylic acid methyl ester is obtained which, after recrystallisation from ethanol, melts at 188°-190°.

reactant | sodium hydride | 1.2 g | [H-].[Na+]
reactant | 6-methoxy-1-oxo-1,4-dihydro-4,7-phenanthroline-3-carboxylic acid methyl ester | 6.5 g | COC(=O)C1=CC(C2=C3C=CC=NC3=C(C=C2N1)OC)=O | C15H12N2O4
reactant | ethyl iodide | 4.3 g | C(C)I | C2H5I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-ethoxy-6-methoxy-4,7-phenanthroline-3-carboxylic acid methyl ester | COC(=O)C=1C=C(C2=C3C=CC=NC3=C(C=C2N1)OC)OCC | C17H16N2O4
